US09062092B2
Compound 95a. Hydroxy-oxetan-3-yl-acetic acid ethyl ester
To a stirred solution of oxetan-3-yl-acetic acid ethyl ester (obtained from Activate Scientific GmbH), (1.04 g, 7.21 mmol) in anhydrous tetrahydrofuran (72 mL) at −78° C. under nitrogen was added dropwise sodium hexamethyldisilazide (0.6 M in toluene, 14.4 mL, 8.66 mmol) to give a yellow orange solution. The reaction mixture was stirred at −78° C. for 30 min and then a solution of 2-(phenylsulfonyl)-3-phenyl-oxaziridine (2.83 g, 10.8 mmol) in tetrahydrofuran (7 mL) was added over 2 min. The reaction mixture was stirred at −78° C. for 90 min and then saturated ammonium chloride solution (10 mL) was added via syringe. The reaction mixture was allowed to warm to ambient temperature and after 5 min further saturated ammonium chloride solution (10 mL) was added and then stirred at ambient temperature for 1 h. The reaction mixture was neutralised to pH 7 with hydrochloric acid (2 M) and the mixture diluted with water and extracted with ethyl acetate (4×). The combined organic extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered and partially evaporated to about ˜10 mL. The mixture was diluted with dichloromethane and the solids were filtered off, the filtrate was evaporated and the residue was purified by silica gel chromatography using a gradient of iso-hexanes/diethyl ether 1:0 to 1:3 to give the title compound (688 mg, 60%) as a white gum. 1H NMR (300 MHz, CDCl3) δ 1.30 (t, J=7.2 Hz, 3H), 2.95 (d, J=5.1 Hz, 1H), 3.26-3.38 (m, 1H), 4.26 (q, J=7.1 Hz, 2H), 4.42 (dd, J=7.4, 5.1 Hz, 1H), 4.67-4.81 (m, 4H). LCMS (m/z) 161.2 [M+H] Tr=0.72 min

reactant | oxetan-3-yl-acetic acid ethyl ester | 7.21 mmol, 1.04 g | C(C)OC(CC1COC1)=O | C7H12O3
reactant | sodium hexamethyldisilazide | 8.66 mmol, 0.6 M, 14.4 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | 2-(phenylsulfonyl)-3-phenyl-oxaziridine | 10.8 mmol, 2.83 g | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | tetrahydrofuran | 72 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Hydroxy-oxetan-3-yl-acetic acid ethyl ester | 688 mg, 60% | C(C)OC(C(C1COC1)O)=O | C7H12O4
